US06605610B1
A) 2,6-Difluoroiodobenzene
(Roe, A. M.; Burton, R. A.; Willey, G. L.; Baines, M. W.; Rasmussen, A. C. J. Med. Chem. 1968, 11, 814-819. Tamborski, C.; Soloski, E. J. Org. Chem. 1966, 31, 746-749. Grunewald, G. L.; Arrington, H. S.; Bartlett, W. J.; Reitz, T. J.; Sall, D. J. J. Med. Chem. 1986, 29, 1972-1982.) 1,3-Difluorobenzene (57.05 g, 0.5 M) in THF (75 mL) was added to a −78° C. stirred solution of n-butyllithium (n-BuLi) (200 mL, 2.5 M/hexanes, 0.5 M) and THF (500 mL) under N2. By controlling the addition rate the internal temperature was maintained below −70° C. The total addition time was ˜½ hour. The resulting slurry was stirred an additional ½ hour, then the dispersion was treated with a solution of iodine (126.9 g, 0.5 M) in THF (300 mL) at a rate that maintained an internal temperature below −70° C. After complete addition the mixture was allowed to warm to room temperature, and was treated with H2O (100 mL) and 10% aqueous Na2S2O3 solution (100 mL) and stirred. The layers were separated and the aqueous layer extracted with hexanes (2×250 mL). The combined organic layer was washed with 10% aqueous Na2S2O3 solution (100 mL), H2O (100 mL), saturated aqueous NaCl solution (100 mL), dried (Na2SO4) filtered and concentrated to give a yellow oil (106.5 g). Distillation at ˜1-5 mm at −80° C. provided a light yellow oil (89.5 g, 75%). 1H NMR (400 MHz, CDCl3) δ 7.30 (m, 1H), 6.87 (m, 2H). GCMS m/e 240 (M+).

reactant | 1,3-Difluorobenzene | 0.5 M, 57.05 g | FC1=CC(=CC=C1)F | C6H4F2
reactant | n-butyllithium | 2.5 M, 200 mL | C(CCC)[Li]
reactant | iodine | 0.5 M, 126.9 g | II | I2
reactant | Na2S2O3 | 100 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | H2O | 100 mL | O | H2O
product | 2,6-Difluoroiodobenzene | 106.5 g | FC1=C(C(=CC=C1)F)I | C6H3F2I
